US05214181
N-[S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-D-cysteinyl]glycine ethyl ester (compound No. 1)
To a stirred solution of S-benzyl-N-(3-benzylthio-2,2-dimethyl-propionyl)-D-cysteine (0.32 g) and glycine ethyl ester hydro-chloride (0.12 g) in N,N-dimethylformamide (DMF, 3 ml), N-methylmorpholine (NMM, 0.19 ml), 1-hydroxybenzotriazole (HOBt, 0.17 g) and then a solution of N,N,-dicyclohexylcarbodiimide (DCC, 0.18 g) in DMF (2 ml) were added under ice cooling. The mixture was stirred for 2 hr. at 0° C. and for 2 hr. at room temperature, and stood overnight. 1 N hydrochloric acid (30 ml) was added into the reaction mixture and the mixture was extracted with ether. The organic layer was washed with saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated in vacuo. The oily residue was purified by a silica gel column chromatography to give 0.35 g (91%) of the titled compound.

reactant | S-benzyl-N-(3-benzylthio-2,2-dimethyl-propionyl)-D-cysteine | 0.32 g | C(C1=CC=CC=C1)SC[C@@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)C(=O)O | C22H27NO3S2
reactant | glycine ethyl ester hydro-chloride | 0.12 g | Cl.C(C)OC(CN)=O
reactant | 1-hydroxybenzotriazole | 0.17 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | hydrochloric acid | 1 N, 30 ml | Cl | ClH
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N-methylmorpholine | 0.19 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 2 ml | CN(C=O)C | C3H7NO
product | N-[S-benzyl-N-(3-benzylthio-2,2-dimethylpropionyl)-D-cysteinyl]glycine ethyl ester | 0.35 g, 91% | C(C)OC(CNC([C@H](NC(C(CSCC1=CC=CC=C1)(C)C)=O)CSCC1=CC=CC=C1)=O)=O | C26H34N2O4S2
